US04006159
Preparation of 1(and 2 and 4)-Pivaloyl-s-triazole-3-carboxamide
To a cooled, stirred mixture of 3 g. of 1,2,4-triazole-3-carboxamide and 3.4 g. of pivaloyl chloride in 125 ml. of anhydrous diethyl ether is added rapidly 2.75 g. of triethylamine. The cooling bath is removed and the mixture is stirred at room temperature for 24 hours. The off-white solid is collected by filtration and washed thoroughly with diethyl ether and then cold water. The ether-cold water filtrate deposits another solid almost immediately. This solid is collected by filtration and dried in vacuo for 3.5 hours, yielding 0.22 g. This 0.22 g. is extracted with hot, dry acetonitrile. Concentration of the acetonitrile filtrate to a very small volume gives a colorless, crystalline solid which is collected, washed with a small amount of acetonitrile and dried in vacuo for 2 hours, yielding 50 mg., m.p. 132°-140° C. (dec.).

reactant | 1,2,4-triazole-3-carboxamide | N1N=C(N=C1)C(=O)N | C3H4N4O
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | Pivaloyl-s-triazole-3-carboxamide | C(C(C)(C)C)(=O)C1=NC(=NN1)C(=O)N | C8H12N4O2
